US07482342B2
5-Iodo-1H-indazole-3-carbaldehyde
Under argon, 1 g of sodium nitrite (27.6 g, 400 mmol) is added in portions to a suspension of 5-iodoindole (9.722 g, 40 mmol) in water, followed dropwise by a 6N HCl solution (59 ml). The temperature of the reaction mixture is kept under 15° C. and then the reaction mixture is left under vigorous stirring at room temperature overnight. The nitrous vapours are expelled under an argon stream and then the reaction mixture is filtered. Washing the solid with H2O followed by purification on silica gel (600 g), eluting according to an elution gradient from CH2Cl2 to a CH2Cl2/AcOEt (9/1) mixture, makes it possible to isolate 1.37 g of product in the form of a brown solid.

reactant | sodium nitrite | 400 mmol, 1 g | N(=O)[O-].[Na+]
reactant | 5-iodoindole | 40 mmol, 9.722 g | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | HCl | 6N, 59 ml | Cl | ClH
reactant | water | O | H2O
product | 5-Iodo-1H-indazole-3-carbaldehyde | 1.37 g | IC=1C=C2C(=NNC2=CC1)C=O | C8H5IN2O
